US05137920
4 g of 4'-[3-(1-pyrrolidinyl)propyl]acetophenone and 2 g of benzaldehyde were dissolved in 80 ml of methanol and treated with a solution of 9.55 g of potassium carbonate in 38 ml of water within 15 minutes while cooling with an ice bath. The mixture was then left to react at room temperature for 18 hours and at about 40° for a further 18 hours. The reaction mixture was taken up in 200 ml of ethyl acetate and extracted with 100 ml of water. The aqueous phase was again extracted with 200 ml of ethyl acetate and the organic phases were again extracted with 100 ml of semi-saturated sodium chloride solution. The combined organic phases were dried over magnesium sulphate and evaporated. The residue was chromatographed on silica gel with acetone. There were obtained 4.5 g (81%) of (E)-3-phenyl-4'-[3-(1-pyrrolidinyl)propyl]acrylophenone as a yellow oil; mass spectrum m/e: M+ 319 (7.1), 131 (1.4), 84 (100), 42 (7.5). For the formation of the hydrochloride, the free amine was dissolved in a small amount of ethanol and treated with 10M ethanolic hydrochloric acid solution. After recrystallization of the resulting material from isopropanol there was obtained the pure hydrochloride; m.p. 211°-213°.

reactant | 4'-[3-(1-pyrrolidinyl)propyl]acetophenone | 4 g | N1(CCCC1)CCCC1=CC=C(C=C1)C(C)=O | C15H21NO
reactant | benzaldehyde | 2 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | potassium carbonate | 9.55 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 80 ml | CO | CH4O
solvent | water | 38 ml | O | H2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | (E)-3-phenyl-4'-[3-(1-pyrrolidinyl)propyl]acrylophenone | 4.5 g, 81% | C1(=CC=CC=C1)/C=C/C(=O)C1=CC=C(C=C1)CCCN1CCCC1 | C22H25NO
